US04167567
A mixture of 3.70 g (0.00924 mol) of 4-[4-[[7-(trifluoromethyl)-4-quinolinyl]amino]benzoyl]piperazine, 1.61 g (0.00924 mol) of 6-chloro-2,4-dimethoxypyrimidine, 1.29 ml (0.00924 mol) of triethylamine and 125 ml of ethylene glycol is heated at 100° C. for 6 hours. After cooling, the precipitated solid is collected on a sintered glass funnel and dried in the air over the weekend. The solid is chromatographed on silica gel, eluting with 6% methanol/methylene chloride, to give 2.15 g (43%) of 1-(2,6-dimethoxy-4-pyrimidinyl)-4-[4-[[7-(trifluoromethyl)-4-quinolinyl]amino]benzoyl]piperazine of melting point 260°-262° C., after crystallization from methanol/methylene chloride.

reactant | 4-[4-[[7-(trifluoromethyl)-4-quinolinyl]amino]benzoyl]piperazine | 0.00924 mol, 3.70 g | FC(C1=CC=C2C(=CC=NC2=C1)NC1=CC=C(C(=O)N2CCNCC2)C=C1)(F)F | C21H19F3N4O
reactant | 6-chloro-2,4-dimethoxypyrimidine | 0.00924 mol, 1.61 g | ClC1=CC(=NC(=N1)OC)OC | C6H7ClN2O2
reactant | triethylamine | 0.00924 mol, 1.29 ml | C(C)N(CC)CC | C6H15N
solvent | ethylene glycol | 125 ml | C(CO)O | C2H6O2
product | 1-(2,6-dimethoxy-4-pyrimidinyl)-4-[4-[[7-(trifluoromethyl)-4-quinolinyl]amino]benzoyl]piperazine | 2.15 g, 43% | COC1=NC(=CC(=N1)N1CCN(CC1)C(C1=CC=C(C=C1)NC1=CC=NC2=CC(=CC=C12)C(F)(F)F)=O)OC | C27H25F3N6O3
